US08580816B2
Analogously to Example 3 (step (a)), the reaction of 250 mg of 4-[5-(2-fluorophenoxy)oxazolo[5,4-b]pyridin-2-yl]-2,6-dimethylphenol with 178 mg of benzyl 3-hydroxy-2,2-dimethylpropionate gave 160 mg (41%) of benzyl 3-{4-[5-(2-fluorophenoxy)oxazolo[5,4-b]pyridin-2-yl]-2,6-dimethylphenoxy}-2,2-dimethylpropionate.

reactant | 4-[5-(2-fluorophenoxy)oxazolo[5,4-b]pyridin-2-yl]-2,6-dimethylphenol | 250 mg | FC1=C(OC2=CC=C3C(=N2)OC(=N3)C3=CC(=C(C(=C3)C)O)C)C=CC=C1 | C20H15FN2O3
reactant | benzyl 3-hydroxy-2,2-dimethylpropionate | 178 mg | OCC(C(=O)OCC1=CC=CC=C1)(C)C | C12H16O3
product | benzyl 3-{4-[5-(2-fluorophenoxy)oxazolo[5,4-b]pyridin-2-yl]-2,6-dimethylphenoxy}-2,2-dimethylpropionate | 160 mg, 41% | FC1=C(OC2=CC=C3C(=N2)OC(=N3)C3=CC(=C(OCC(C(=O)OCC2=CC=CC=C2)(C)C)C(=C3)C)C)C=CC=C1 | C32H29FN2O5
